US05270302
a. 2-carboethoxy-3-(3-indolyl)-2-methylpropionic acid
Ethyl 2-carboethoxy-3-(3-indolyl)-2-methylpropionate (1.8 g, 5.95 mmol) (S. Masanori, et al., Heterocycles, 1981, 16:941-9), was added to a solution of potassium hydroxide (380 mg, 5.76 mmol) in 4 mL of ethanol. The reaction mixture was stirred at ambient temperature overnight and then heated on a steam bath for 2 hours. The ethanol was evaporated and water (20 mL) was added. The aqueous mixture was extracted with diethyl ether (3×20 mL). The pH of the aqueous layer was adjusted to approximately 1 and it was then extracted with ethyl acetate. The ethyl acetate solution was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to give 1.5 g (92% yield) of the title compound.

reactant | Ethyl 2-carboethoxy-3-(3-indolyl)-2-methylpropionate | 5.95 mmol, 1.8 g | C(=O)(OCC)C(C(=O)OCC)(CC1=CNC2=CC=CC=C12)C | C17H21NO4
reactant | potassium hydroxide | 5.76 mmol, 380 mg | [OH-].[K+]
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 2-carboethoxy-3-(3-indolyl)-2-methylpropionic acid | 1.5 g, 92% yield | C(=O)(OCC)C(C(=O)O)(CC1=CNC2=CC=CC=C12)C | C15H17NO4
